US07985753B2
(6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(4,7-dimethyl-1,4,7,8,9,10-hexahydro-2H-[3,7]phenanthrolin-3-yl)-methanone
In close analogy to the procedure described in Example 1, 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid is reacted with 4,7-Dimethyl-1,2,3,4,7,8,9,10-octahydro-[3,7]phenanthroline to provide the title compound in moderate yield.

reactant | 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | BrC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4BrN3O2
reactant | 4,7-Dimethyl-1,2,3,4,7,8,9,10-octahydro-[3,7]phenanthroline | CC1NCCC2=C3CCCN(C3=CC=C12)C | C14H20N2
product | (6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(4,7-dimethyl-1,4,7,8,9,10-hexahydro-2H-[3,7]phenanthrolin-3-yl)-methanone | BrC=1C=NC=2N(C1)N=C(C2)C(=O)N2CCC1=C3CCCN(C3=CC=C1C2C)C | C21H22BrN5O
